US04272537
A solution of 3,5-diamino-6-chloro-N-[[(aminocarbonyl)amino]iminomethyl]-2-pyrazinecarboxamide (0.5 g., 0.0018 mole) and 4-methylcyclohexanone (0.5 ml.) in dimethylformamide (10 ml.) is heated at 95° C. for 20 hours. The reaction mixture is treated with 20 ml. of 2-propanol, filtered, the filtrate distilled at reduced pressure to a volume of 2 ml. and chromatographed on silica gel to give 3,5-diamino-6-chloro-N-(3',4'-dihydro-6'-hydroxy-4-methylspirocyclohexane]1,4']-1,3,5-triazin-2-yl)-2-pyrazinecarboxamide which melts at 274° C.

reactant | 3,5-diamino-6-chloro-N-[[(aminocarbonyl)amino]iminomethyl]-2-pyrazinecarboxamide | 0.0018 mole, 0.5 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)NC=NNC(=O)N | C7H9ClN8O2
reactant | 4-methylcyclohexanone | 0.5 ml | CC1CCC(CC1)=O | C7H12O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-pyrazinecarboxamide | N1=C(C=NC=C1)C(=O)N | C5H5N3O
